US07459472B2
A solution of 5-(3-trifluoromethoxy-phenoxymethyl)-pyrazine-2-carboxylic acid (0.182 g, 0.579 mmol) was treated with 2(S)-amino-3-biphenyl-4-yl-propionic acid methyl ester hydrochloride (0.162 g, 0.637 mmol), HBTU (0.440 g, 1.158 mmol), and DIEA (0.310 g, 1.737 mmol) by the general procedure A. The crude crude product was purified by flash column chromatography on silica gel to give 0.170 g of 3-biphenyl-4-yl-2(S)-{[5-(3-trifluoromethoxy-phenoxymethyl)-pyrazine-2-carbonyl]-amino}-propionic acid methyl ester. LCMS: 553 (M+2)+

reactant | 5-(3-trifluoromethoxy-phenoxymethyl)-pyrazine-2-carboxylic acid | 0.579 mmol, 0.182 g | FC(OC=1C=C(OCC=2N=CC(=NC2)C(=O)O)C=CC1)(F)F | C13H9F3N2O4
reactant | 2(S)-amino-3-biphenyl-4-yl-propionic acid methyl ester hydrochloride | 0.637 mmol, 0.162 g | Cl.COC([C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)N)=O
reactant | HBTU | 1.158 mmol, 0.440 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.737 mmol, 0.310 g | CCN(C(C)C)C(C)C | C8H19N
product | 3-biphenyl-4-yl-2(S)-{[5-(3-trifluoromethoxy-phenoxymethyl)-pyrazine-2-carbonyl]-amino}-propionic acid methyl ester | 0.170 g | COC([C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)C1=NC=C(N=C1)COC1=CC(=CC=C1)OC(F)(F)F)=O | C29H24F3N3O5
